US06916956B2
(Cyclopropyl)[2-(tert-butyldimethylsilyloxymethyl)-phenyl]methanol
Magnesium (2.20 g) was suspended in tetrahydrofuran (4 ml) and iodine (2 mg) was added. Thereto was added dropwise a solution of 2-bromo-1-(tert-butyldimethylsilyloxymethyl)benzene (24.0 g) obtained in Step 1 in tetrahydrofuran (10 ml) over 30 min and the reaction mixture was heated under reflux for 1 hr. Thereto was added tetrahydrofuran to give 1M 2-(tert-butyldimethylsilyloxymethyl)phenylmagnesium bromide-tetrahydrofuran solution. Then cyclopropanecarboxaldehyde (2.80 g) was dissolved in tetrahydrofuran (120 ml), and 1M 2-(tert-butyldimethylsilyloxymethyl)phenylmagnesium bromide-tetrahydrofuran solution (80 ml) was added dropwise under ice-cooling over 50 min. The reaction mixture was stirred at room temperature for 12 hr. To the reaction mixture was added saturated aqueous ammonium chloride solution (8 ml) under ice-cooling and the reaction mixture was stirred at room temperature for 30 min. The reaction mixture was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=95:5) to give the title compound (8.20 g).

reactant | cyclopropanecarboxaldehyde | 2.80 g | C1(CC1)C=O | C4H6O
reactant | 2-(tert-butyldimethylsilyloxymethyl)phenylmagnesium bromide tetrahydrofuran | 1M, 80 ml | [Si](C)(C)(C(C)(C)C)OCC1=C(C=CC=C1)[Mg]Br.O1CCCC1
reactant | ammonium chloride | 8 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | (Cyclopropyl)[2-(tert-butyldimethylsilyloxymethyl)-phenyl]methanol | 8.20 g | C1(CC1)C(O)C1=C(C=CC=C1)CO[Si](C)(C)C(C)(C)C | C17H28O2Si
